US04318913
1-Methyl-N5 -[3-[3-[1-pyrrolidinylmethyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine
A mixture of 3-[3-[1-pyrrolidinylmethyl]phenoxy]propanamine (0.97 g) and N-cyano-1-methyl-2-(phenylmethylene)hydrazine carboximidothioic acid methyl ester (0.97 g) was heated at 70° for 8 hr under a reduced pressure of 20 mm of mercury. Acetone was added and the solution was treated with hydrochloric acid at room temperature for one hour, washed with ether, basified with sodium carbonate and extracted with ethyl acetate. Evaporation of the ethyl acetate extracts gave a thick oil which crystallised from ethyl acetate/light petroleum (b.p. 60°-80° ) to give the title compound as a white solid (0.2 g). TLC; silica/methanol/0.88 ammonia 80:1) Rf 0.5, m.p. 95°-95.5°.

reactant | 3-[3-[1-pyrrolidinylmethyl]phenoxy]propanamine | 0.97 g | N1(CCCC1)CC=1C=C(OCCCN)C=CC1 | C14H22N2O
reactant | N-cyano-1-methyl-2-(phenylmethylene)hydrazine carboximidothioic acid methyl ester | 0.97 g | CSC(=NC#N)N(N=CC1=CC=CC=C1)C | C11H12N4S
reactant | hydrochloric acid | Cl | ClH
solvent | Acetone | CC(=O)C | C3H6O
product | 1-Methyl-N5 -[3-[3-[1-pyrrolidinylmethyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine | 0.2 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCC1)N | C17H26N6O
